### ISSUE TITLE
Suggest bang tactic variants after negation pushing

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#49]
We could add a linter to detect patterns where `by_contra` or `wlog` is followed by `push Not` and suggest the corresponding bang tactic.

For example the linter could detect:

```lean
example (p : ℕ → Prop) : (¬ ∀ n, ¬ p n) → ∃ n, p n := by
  intro h
  by_contra h'
  push Not at h'
  exact h h'
```

and suggest:

```lean
example (p : ℕ → Prop) : (¬ ∀ n, ¬ p n) → ∃ n, p n := by
  intro h
  by_contra! h'
  exact h h'
```

This was originally suggested by @grunweg.
